US03985881
1-aminomethyl-2-benzyl-1,2,3,4-tetrahydroisoquinoline
1-aminomethyl-2-(3-carbethoxypropyl)-1,2,3,4-tetrahydroisoquinoline [obtainable by reacting 1-benzamidomethyl-2-(2-chloroethyl)-1,2,3,4-tetrahydroisoquinoline with diethyl malonate in the presence of tert.--C4H9OK in tert.-butanol, saponifying, decarboxylation, and esterification]

reactant | 1-aminomethyl-2-(3-carbethoxypropyl)-1,2,3,4-tetrahydroisoquinoline | NCC1N(CCC2=CC=CC=C12)CCCC(=O)OCC | C16H24N2O2
reactant | 1-benzamidomethyl-2-(2-chloroethyl)-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)(=O)NCC1N(CCC2=CC=CC=C12)CCCl | C19H21ClN2O
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | C4H9OK | C(CCC)O[K]
solvent | tert.-butanol | C(C)(C)(C)O | C4H10O
product | 1-aminomethyl-2-benzyl-1,2,3,4-tetrahydroisoquinoline | NCC1N(CCC2=CC=CC=C12)CC1=CC=CC=C1 | C17H20N2
